US07432369B2
In a 1 L round bottom flask fitted with a reflux condenser, a stirred suspension of 10.00 g of o-toluic acid and 19.56 g (1.5 eq.) N-bromosuccinimide in 735 mL chloroform was sparged for 0.5 h with nitrogen. The sparging was discontinued, and the suspension was stirred and irradiated under nitrogen atmosphere using a 500 W quartz halogen lamp at 75% power, causing the solids to dissolve and the chloroform to reflux. The red color of the reaction mixture disappeared after 1.5 h, and 6.52 g (0.5 eq.) of N-bromosuccinimide was added. The reaction mixture was stirred and irradiated under nitrogen atmosphere with a 500 W quartz halogen lamp at 75% power for another 1.5 h, at which time the solution became colorless. The solvent volume was reduced in vacuo to about 100 mL, and then cooled to −20° C. The resultant suspension was vacuum filtered through a 1 cm bed of dry silica in a 150 mL fritted funnel. The silica was washed with 2.5 L of chloroform. The chloroform filtrate was reduced in vacuo to about 1 L, washed in a separatory funnel with 3×1 L volumes of water followed by one 3×1 L volume of brine to remove traces of succinimide, then dried with magnesium sulfate and vacuum filtered. The chloroform was reduced by rotary evaporation at reflux at 1 atmosphere to 250 mL and cooled at −20° C. for 3 days. The resultant crystals were vacuum filtered, washed with 30 mL of chloroform followed by 50 mL of hexanes, then dried in a vacuum oven at room temperature overnight, providing 8.48 g (54%) 2-bromomethylbenzoic acid as a white crystalline power.

reactant | o-toluic acid | 10.00 g | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | N-bromosuccinimide | 19.56 g, 1.5 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 6.52 g, 0.5 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 735 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromomethylbenzoic acid | 8.48 g, 54% | BrCC1=C(C(=O)O)C=CC=C1 | C8H7BrO2
